US08871753B2
Step E: tert-Butyl [3-(2-{2-[(tert-butoxycarbonyl)amino]-5-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)phenyl]carbamate
A solution of tert-butyl [3-(2-{5-amino-2-[(tert-butoxycarbonyl)amino]phenyl}ethyl)phenyl]carbamate (8.15 g, 19.1 mmol) in DMF (19 mL) was treated with potassium carbonate (3.42 g, 24.8 mol) and stirred at 25° C. for 5 minutes. The reaction mixture was treated with 2,4,5-trichloropyrimidine (2.40 mL, 21.0 mmol) dropwise and stirred at 20° C. overnight. The reaction mixture was poured into water (200 mL) and extracted with ethyl acetate (300 mL). The organic layer was separated and washed with brine (50 mL), dried with sodium sulfate, filtered, and concentrated to give a crude orange oil. The residue was purified with silica gel chromatography to give the desired product (10.9 g, 99.5%). LCMS calculated for C28H33Cl2N5O4Na (M+Na)+: m/z=596.0, 598.0.

reactant | tert-butyl [3-(2-{5-amino-2-[(tert-butoxycarbonyl)amino]phenyl}ethyl)phenyl]carbamate | 19.1 mmol, 8.15 g | NC=1C=CC(=C(C1)CCC=1C=C(C=CC1)NC(OC(C)(C)C)=O)NC(=O)OC(C)(C)C | C24H33N3O4
reactant | potassium carbonate | 24.8 mol, 3.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4,5-trichloropyrimidine | 21.0 mmol, 2.40 mL | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | water | 200 mL | O | H2O
solvent | DMF | 19 mL | CN(C)C=O | C3H7NO
product | tert-Butyl [3-(2-{2-[(tert-butoxycarbonyl)amino]-5-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)phenyl]carbamate | 10.9 g, 99.5% | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)NC1=NC(=NC=C1Cl)Cl)CCC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C28H33Cl2N5O4
